US04593090
Sodium nitrite (2 g) was added to a solution of the above fractionated α,β-mixed form of 3-(2-hydroxy-n-propyl)-3-(isobutyl D-glucopyranose-6-yl)-1-(2-chloroethyl)urea (4.48 g, 11.7 mmol) in a mixture of ethanol (60 ml) and 80% aqueous acetic acid (30 ml) with well stirring at 0° to 5° C. spending 30 minutes. This reaction mixture was allowed to stand in a refrigerator at 0° to 5° C. for 18 hours to complete reaction, which was confirmed by TLC. An ion exchange resin (H+ form, registered trade mark: Amberlite IR-120) (20 ml) was added to the reaction mixture and the mixture was stirred at 0° to 5° C. for 1 hour. The ion exchange resin was filtered off, and the filtrate was vacuum-concentrated at 25° C. and fractionated by column chromatography (packing: Kiesel gel 60; eluent: chloroform/ethanol 9:1) to separate the α- and β-forms. Each fractionated solution was vacuum-concentrated at 25° C. and crystallized from ether and petroleum ether. Thus, there were obtained 1.43 g of 3-(2-hydroxy-n-propyl)-3-(isobutyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea; yield 28.5%, m.p. 62°-64° C., [α]D20 +66.9° (C 1.0, methanol); and 1.14 g of 3-(2-hydroxy-n-propyl)-3-(isobutyl β-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea; yield 22.7%, m.p. 80°-82° C., [α]D20 -12.5° (C 1.0, methanol).

reactant | Sodium nitrite | 2 g | N(=O)[O-].[Na+]
reactant | 3-(2-hydroxy-n-propyl)-3-(isobutyl D-glucopyranose-6-yl)-1-(2-chloroethyl)urea | 11.7 mmol, 4.48 g | OC(CN(C(NCCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H](C(O)(O1)CC(C)C)O)O)O)O)C | C16H31ClN2O8
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-(2-hydroxy-n-propyl)-3-(isobutyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea | 1.43 g, yield 28.5% | OC(CN(C(N(N=O)CCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H]([C@@](O)(O1)CC(C)C)O)O)O)O)C | C16H30ClN3O9
